US06544971B1
Estra-1,3,5(10),16-tetraen-3-ol, for example, may be prepared from estrone (estra-1,3,5(10)-trien-3-ol-17-one) by reacting estrone with an appropriate amount of p-toluenesulfonylhydrazide in a polar solvent such as dry methanol or ethanol under reflux to form the corresponding estrone p-toluenesulfonylhydrazone. The estrone p-toluenesulfonylhydrazone is then reacted with n-butyl lithium in an inert aprotic solvent such as dry tetrahydrofuran, ether, dimethoxyethane or the like to give estra-1,3,5(10),16-tetraen-3-ol.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ether | CCOCC | C4H10O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | estra-1,3,5(10),16-tetraen-3-ol | C[C@@]12C=CC[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C18H22O
